US05840726
Synthesis of (S)-3-(1H-Indol-3-ylmethyl)-1-(2-phenyl-ethyl)-piperazine
Combine lithiium aluminumhydride (100 mmol) and tetrahydrofuran (75 ml). Add (S)-3-(1H-Indol-3-ylmethyl)-1-(2-phenyl-ethyl)-2-oxo-piperazine (25 mmol) portionwise. Heat to reflux. After 24 hours, cool to ambient temperature. Carefully add water (3.8 mL), 15% aqueous sodium hydroxide solution (3.8 mL), and water (10.5 mL). Stir vigourously for 1 hour. Filter, rinse the filter cake repeatedly with tetrahydrofuran. Concentrate the filtrate in vacuo to obtain a residue. Chromatograph the residue to give the title compound.

reactant | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
reactant | (S)-3-(1H-Indol-3-ylmethyl)-1-(2-phenyl-ethyl)-2-oxo-piperazine | 25 mmol | N1C=C(C2=CC=CC=C12)C[C@H]1C(N(CCN1)CCC1=CC=CC=C1)=O | C21H23N3O
reactant | sodium hydroxide | 3.8 mL | [OH-].[Na+]
solvent | water | 10.5 mL | O | H2O
solvent | water | 3.8 mL | O | H2O
product | (S)-3-(1H-Indol-3-ylmethyl)-1-(2-phenyl-ethyl)-piperazine | N1C=C(C2=CC=CC=C12)C[C@H]1CN(CCN1)CCC1=CC=CC=C1 | C21H25N3
